US07468364B2
To 4-acetyl-2-chlorophenylacetic acid (2.65 g, 12.5 mmol) in DMF solution (26 mL) were added triethylamine (3.5 ml, 25 mmol) and 4-nitrobenzyl bromide (5.4 g, 25mol), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was added to an ice cooled saturated potassium hydrogencarbonate solution, the organic layer was separated by a separatory funnel, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined and dried over sodium sulfate, filtered and concentrated. The residue was purified with silica gel chromatography (silica gel 180 ml, hexane:EtOAc=2:1→1:1) to give 4-nitrobenzyl (4-acetyl-2-chlorophenyl)acetate (3.56 g, yield, 82%) as white crystals. The product was subjected to next reaction without further purification. To 4-nitrobenzyl(4-acetyl-2-chlorophenyl)acetate (3.56 g, 11.4 mmol) and triethylamine (2.0 ml, 15.9 mmol) in dichloromethane (36 ml) was dropped at 0° C. under stirring trifluoromethanesulfonic acid trimethylsilyl ether (2.4 ml, 14.8 mmol), and the mixture was stirred for 20 minutes. To the reaction mixture were added at 0° C. dichloromethane (50 mL), (2R,3R)-3-((1R)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-oxo-2-azetidinyl acetate (4.6 g, 15.9 mmol), and zinc iodide (2.2 g, 6.8 mmol), and then the ice bath was removed. The mixture was stirred at room temperature for 4.5 hours and then added to an ice cooled saturated potassium hydrogencarbonate solution. The organic layer was separated by a separatory funnel and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried over sodium sulfate, filtered, and concentrated. The residue was purified with silica gel chromatography (silica gel 180 ml, hexane:EtOAc=4:1→0:1) to give 4-nitrobenzyl(4-{[(2R,3S)-3-((1R)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-oxoazetidin-2-yl]acetyl}-2-chlorophenyl)acetate (5.2 g, yield 79.7%) as a white solid.

reactant | 4-acetyl-2-chlorophenylacetic acid | 12.5 mmol, 2.65 g | C(C)(=O)C1=CC(=C(C=C1)CC(=O)O)Cl | C10H9ClO3
reactant | triethylamine | 25 mmol, 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzyl bromide | 25mol, 5.4 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DMF | 26 mL | CN(C)C=O | C3H7NO
product | 4-nitrobenzyl (4-acetyl-2-chlorophenyl)acetate | 3.56 g, 82% | C(C)(=O)C1=CC(=C(C=C1)CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Cl | C17H14ClNO5
